US04729847
Thionyl chloride (51.2 g, 0.43 mol) was added to optically active p-(1-methyl-heptyloxy)benzoic acid (90.0 g, 0.36 mol), followed by refluxing the mixture for about 2 hours, thereafter completely removing excess thionyl chloride by distillation under reduced pressure to obtain optically active p-(1-methyl-heptyloxy)benzoic acid chloride (90.0 g).

reactant | Thionyl chloride | 0.43 mol, 51.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | p-(1-methyl-heptyloxy)benzoic acid | 0.36 mol, 90.0 g | CC(CCCCCC)OC1=CC=C(C(=O)O)C=C1 | C15H22O3
product | p-(1-methyl-heptyloxy)benzoic acid chloride | 90.0 g | CC(CCCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C15H21ClO2
